US09376622B2
10.2 mmol of 2-(6-chloro-5-fluoropyridin-3-yl)-5-propylpyrimidine and 10.2 mmol of 4,4,5,5-tetramethyl-2-(4-trifluoromethoxyphenyl)-1,3,2-dioxaborolane are dissolved in 30 ml of dioxane, and 20.4 mmol of caesium fluoride and 0.5 mmol of bis(tricyclohexylphosphine)palladium dichloride catalyst are added. The mixture is heated at 100° C. for 18 hours with stirring. Water and MTB ether are added to the batch, and the organic phase is washed with water, dried using sodium sulfate and evaporated. The residue is purified by chromatography on silica gel with heptane/MTB ether 2/1 and recrystallised from isopropanol, giving 2-[5-fluoro-6-(4-trifluoromethoxyphenyl)pyridin-3-yl]-5-propylpyrimidine.

reactant | 2-(6-chloro-5-fluoropyridin-3-yl)-5-propylpyrimidine | 10.2 mmol | ClC1=C(C=C(C=N1)C1=NC=C(C=N1)CCC)F | C12H11ClFN3
reactant | 4,4,5,5-tetramethyl-2-(4-trifluoromethoxyphenyl)-1,3,2-dioxaborolane | 10.2 mmol | CC1(OB(OC1(C)C)C1=CC=C(C=C1)OC(F)(F)F)C | C13H16BF3O3
reactant | caesium fluoride | 20.4 mmol | [F-].[Cs+]
reactant | Water | O | H2O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 2-[5-fluoro-6-(4-trifluoromethoxyphenyl)pyridin-3-yl]-5-propylpyrimidine | FC=1C=C(C=NC1C1=CC=C(C=C1)OC(F)(F)F)C1=NC=C(C=N1)CCC | C19H15F4N3O
